Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Trauma (snowmobile accident)
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with unknown PMH s/p snowmobile accident around 3AM found to 
have midbrain IPH, left and right 6th rib fracture and small 
left pneumothorax. Intubated in the field and brought to the ED 
where he had a GCS of 4T. EtOH positive. CXR concerning for 
aspiration pneumonitis. Of note, he suffered a concussion from a 
snowmobile accident 1 month ago (had scans done at ___ 
 
Past Medical History:
Depression
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
--ADMISSION EXAM--
VS - HR 90, BP 122/86, RR 20, O2 100% on 100%  
 General: intubated, sedated  
 HEENT: disconjugate gaze, R pupil 3mm and reactive, L pupil 2mm 
and reactive  
 Neck: in hard c-collar  
 CV: RRR  
 Lungs: CTAB  
 Abdomen: soft, nondistended  
 GU: foley in place  
 Ext: no edema  
 Neuro: moving LUE and LLE spontaneously, localizes with LUE 
with painful stimuli, withdraws with LLE to painful stimuli, 
mild movements with RLE, no movement with RUE  
 Skin: no skin ulcers  

Discharge exam:
Temp: 98.5; P: 64; BP: 136/72; RR: 18; O2: 98%RA
General: alert, decreased attention level, decreased short term 
memory
HEENT: normocephalic, head atraumatic
Resp: clear breath sounds bilaterally
CV: RRR; no murmurs, rubs, or gallops
Abd: soft, non distended; non-tender
extr: atraumatic, skin intact

 
Pertinent Results:
--IMAGING--

CT HEAD ___
6 mm left dorsal midbrain hematoma, worrisome for diffuse axonal 
injury.  This may be better evaluated with MR imaging. 

CT C-SPINE ___
No evidence of spinal fracture or subluxation.  Possible right 
scapular 
fracture. 

CT TORSO ___
1. Comminuted fracture of the left lateral ___ and 7th rib with 
associated 
small left pneumothorax. 
2. Mildly displaced fracture of the right lateral sixth rib and 
inferior left scapula. 
3. Consolidation in the left lower lobe concerning for 
aspiration with an 
element of pulmonary contusion.  Subpleural opacities in the 
left upper and lower lobe may reflect pulmonary contusions or 
aspiration. 
4. No evidence of traumatic injury in the abdomen or pelvis. 

CT HEAD ___
1. Stable 7 x 5 mm posterior left dorsal midbrain hematoma 
suggesting diffuse axonal injury. 
2. Trace hyperdense layering material in the occipital horn of 
the left 
lateral ventricle is more conspicuous since prior exam, possibly 
trace 
intraventricular hemorrhage, not increased in amount since 
prior. 
3. Otherwise, no new focus of hemorrhage.  No mass effect. 

LEFT ELBOW PLAIN FILM ___
Normal elbow radiographs.

 
Brief Hospital Course:
Patient was admitted to the Trauma ICU intubated. His injuries 
identified on admission included 

(1) Left midbrain intraparenchymal hemorrhage
(2) Bilateral 6th rib fractures
(3) Small left pneumothorax (did not require a chest tube)
(4) Left scapula fracture

Hospital course is summarized by systems below.

NEURO: Patient had an intraparenchymal hemorrhage. He was 
evaluated by Neurosurgery. Patient was initially was mannitol 
for ICP control then transitioned to hypertonic saline. 

___: Accident around 3AM. Admitted to TICU intubated and 
sedated. Right radial aline placed. L subclavian placed. Repeat 
NCHCT stable, exam gradually improved to GCS 1+1T+6=8T, per Dr. 
___ stopped. Febrile to 38.6 by midday, placed on 
cooling blanket. L PTX mildly increased after subclavian, 
unclear if related to subclav or positive pressure from initial 
PTX, no clinical effect.  
 ___: extubated, SBP goal now ___, diet advanced to regular, 
foley d/c'd, liberalized to Q12 Na. restarted home Lexapro  
___: ___ wanted to keep in ICU for another day. Dc'd ___, 
dc'd foley, started ceftriaxone 1g q24 for morexalla in sputum, 
neurochecks changed to q4h, SQH to start tonight  
___: Patient transferred to floor; followed by the ACS team 
along with neurosurgery and ___. The patient's neurological 
exam has stayed intact and has made adequate progress with 
therapy. His central line was removed, he has tolerated a 
regular diet well, and IV fluids had been stopped.
___: The final ___ recommendations are for discharge for 
rehab. The patient and family are comfortable with the discharge 
plan and the patient is to finish a course of 7 days of Keppra 
along with pain control. His antibiotics were stopped due to 
absence of symptoms and normal laboratory values.

 
Medications on Admission:
Escitalopram Oxalate 10 mg PO DAILY 
 
Discharge Medications:
1. Escitalopram Oxalate 10 mg PO DAILY 
2. LeVETiracetam 1000 mg PO BID Duration: 5 Days 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L midbrain IPH, left/right 6th rib ___ left ptx, left 
scapula ___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Your injury caused left/right 6th rib ___ rib fractures which 
can cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

To the Rehab:
Thank you for participating in the care of this patient.  This 
patient has had multiple teaching sessions with both the 
Wound/Ostomy nurses and with the staff nurses and should have a 
good idea of how to care for their own ostomy.  They have also 
been given several items that will assist them in their own 
care, such as instruction sheets, ostomy supplies, and ostomy 
output measuring tools.  However, we would like to stress a few 
important points to assist you in the care of this patient.

Bowel Function:  
  It is important to encourage the patient to monitor their 
bowel function closely every day.  The patient should continue 
to record their ileostomy output (as much as physically 
possible) and the amount of fluid they have taken in, just as 
they were taught in the hospital.  A urinal or hat should be 
used to record their ostomy output daily.  
o   The patient has been taught to use a daily measurement chart 
to record their I&Os.  This chart should be continued to be 
used at least until their follow-up appointment. If their ostomy 
output is less than 500 ml or greater than 1200 ml of liquid 
stool in a day, it is very important to call the doctors office 
with this information. 
o   Continue to reinforce to the patient that the major risk 
with an ileostomy is dehydration related to fluid loses. Daily 
fluid intake is ___ glasses of fluids, including electrolyte 
enhanced beverages.  In the hot weather, encourage them to take 
in increased amounts of fluid and closely measure their 
ileostomy output.  
o   Watch for signs and symptoms of dehydration including: dry 
mouth or tongue, decrease in urination, urine darker in color, 
dizzy when he/she stands, cramps in his/her abdomen or legs, 
dizziness, increased thirst, or weakness. 

 
Followup Instructions:
___